US05616586
N-Ethoxalyl-2-ethoxycarbonylethenyltetrahydroquinoline (4 g, 12.1 mmol) in ethanol (100 mL) was hydrogenated over 10% palladium on carbon (500 mL) under atmospheric pressure of hydrogen for 1.5 h at room temperature. The mixture was filtered through celite and the filtrate was concentrated to give 3.83 g of N-ethoxalyl-2-ethoxycarbonylethyltetrahydroquinoline (95%): 1H NMR (270 MHz, CDCl3) δ7.03~7.19 (m, 4H), 4.78 (m, 1H), 4.11(q, 4H, J 7 Hz), 2.73 (t, 2H, J=6 Hz), 2.47 (m, 1H), 1.69 (m, 1H), 1.25 (t, 3H, J=7 Hz), 1.11 (t, 3H, J=7Hz).

reactant | N-Ethoxalyl-2-ethoxycarbonylethenyltetrahydroquinoline | 12.1 mmol, 4 g | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)C=CC(=O)OCC | C18H23NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mL | [Pd] | Pd
product | N-ethoxalyl-2-ethoxycarbonylethyltetrahydroquinoline | 3.83 g, 95% | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)CCC(=O)OCC | C18H25NO5
